US06787550B1
Description 13: 3-Benzyloxy-4-bromobenzoic acid, benzyl ester
To a stirred suspension of NaH (10.47 g, 60% by wt, 0.2616 mol) in THF (1.40 L), at 13.1° C. under argon, was added a solution of 4-bromo-3-hydroxybenzoic acid (28.11 g, 0.130 mol) in THF (400 ml) over 1.25 h maintaining the internal temperature in the range 4-15° C. After 1.5 h a solution of benzyl bromide (44.3 g, 0.2591 mol) in THF (70 ml) was added over 0.5 h. To the resulting suspension was added DMF (500 ml) and the mixture allowed to warm to room temperature. After a further 15 h extra DMF was added (1.5 L) to the suspension. After approximately 30 minutes the reaction mixture was essentially clear and TLC analysis (25% EtOAc/hexane) indicated that effectively all of the starting material had been consumed. The reaction mixture was quenched with dilute ammonium chloride (100 ml) and concentrated in vacuo. To the concentrate was added ethyl acetate (1.0 L) and dilute ammonium chloride (1.0 L) and the fractions separated. The aqueous fraction was back extracted with ethyl acetate (1×450 ml and 1×300 ml). The total organic fraction was dried over sodium sulphate, filtered and concentrated in vacuo. The resulting solid was crystallised from ethanol:water (9:1; vol:vol, 200 ml), heated at reflux, to which was added ethanol (65 ml) until all the material had dissolved. Water was then added dropwise (17 ml), followed by extra ethanol (8.0 ml). The resulting solution was allowed to slowly cool to ambient temperature. The resulting solid was filtered off and dried (44.54 g). This solid was then dissolved in hot ethanol (227 ml) and water (5.0 ml) added and then allowed to slowly cool to ambient temperature. The resulting crystals were filtered off, washed with cold ethanol (25 ml) and dried in a vacuum oven at 50° C. to give the title compound (36.79 g, yield 71.5%). mp=80.5-81.5° C.

reactant | NaH | 0.2616 mol, 10.47 g | [H-].[Na+]
reactant | 4-bromo-3-hydroxybenzoic acid | 0.130 mol, 28.11 g | BrC1=C(C=C(C(=O)O)C=C1)O | C7H5BrO3
reactant | benzyl bromide | 0.2591 mol, 44.3 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | THF | 1.40 L | C1CCOC1 | C4H8O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 3-Benzyloxy-4-bromobenzoic acid, benzyl ester | 36.79 g, yield 71.5% | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1Br | C21H17BrO3
